US05317018
(2-Amino-5-fluorophenyl)(2-bromophenyl)methanone
A mixture of 20 g (0.15 mol) of zinc chloride and 50 g (0.23 mol) of 2-bromobenzoyl chloride was heated to 110° C. 4-Fluoroaniline, 13 g (0.12 mol) Was added over a period of 2 minutes, raising the temperature of the mixture to 160° C. This mixture was then heated and stirred for 3 hours at 210°-220° C. After cooling to 140° C., 200 mL of hot 3N hydrochloric acid was added cautiously. The mixture was stirred and heated to reflux for 5 minutes and the aqueous phase was decanted from the residue. This procedure was repeated twice. The residue was dissolved in 200 mL acetic acid and treated with 100 mL of 3N hydrochloric acid and 10 mL of concentrated sulfuric acid to form a mixture.

reactant | 2-bromobenzoyl chloride | 0.23 mol, 50 g | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
reactant | 4-Fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | hydrochloric acid | 3N | Cl | ClH
catalyst | zinc chloride | 0.15 mol, 20 g | [Cl-].[Zn+2].[Cl-]
product | (2-Amino-5-fluorophenyl)(2-bromophenyl)methanone | NC1=C(C=C(C=C1)F)C(=O)C1=C(C=CC=C1)Br | C13H9BrFNO
